US04131671
57.0 g (0.3 moles) of 4-methyl-1-homopiperazinedithiocarboxylic acid (FLA-57) was dissolved in 300 ml of water with 12.0 g (0.3 moles) of NaOH. The solution was evaporated. The residue was recrystallized from ethanol-isopropyl ether, 37.5 g of sodium 4-methyl-1-homopiperazinedithiocarboxylate monohydrate was obtained. Mp 123°-125° C. elemental analysis. C calculated 36.60%, found 36.5%, H calculated 6.56%, found 6.54%, N calculated 12.16%, found 12.1%, S calculated 27.84%, found 27.8%.

reactant | 4-methyl-1-homopiperazinedithiocarboxylic acid | 0.3 moles, 57.0 g | CN1CCN(CCC1)C(=S)S | C7H14N2S2
reactant | NaOH | 0.3 moles, 12.0 g | [OH-].[Na+]
solvent | water | 300 ml | O | H2O
product | sodium 4-methyl-1-homopiperazinedithiocarboxylate monohydrate | 37.5 g | O.CN1CCN(CCC1)C(=S)[S-].[Na+] | InChI=1S/C7H14N2S2.Na.H2O/c1-8-3-2-4-9(6-5-8)7(10)11;;/h2-6H2,1H3,(H,10,11);;1H2/q;+1;/p-1
